US06482951B2
A mixture of (R)-(+)-α-aminocyclohexanepropionic acid hydrochloride (2.69 g; 15.7 mmol) and phthalic dicarboxaldehyde (2.50 g; 14.6 mmol) in acetonitrile (60 mL) was refluxed for 42 h under nitrogen. The mixture was allowed to cool to room temperature and further cooled to 0° C. The solid was filtered off and washed once with cold acetonitrile to give 2.65 g (63%) of (R)-3-Cyclohexyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid as a white solid: EI-HRMS m/e calcd for C17H21NO3 (M+) 287.1521, found 287.1523.

reactant | (R)-(+)-α-aminocyclohexanepropionic acid hydrochloride | 15.7 mmol, 2.69 g | Cl.N[C@@H](C(=O)O)CC1CCCCC1
reactant | acetonitrile | 60 mL | C(C)#N | C2H3N
product | (R)-3-Cyclohexyl-2-(1-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid | 2.65 g, 63% | C1(CCCCC1)C[C@H](C(=O)O)N1C(C2=CC=CC=C2C1)=O | C17H21NO3
